US07531532B2
Morpholine-4-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide
2-Phenylacetyl chloride (0.064 ml) was dissolved in acetonitrile (3 ml) under a nitrogen atmosphere, and then potassium thiocyanate (94.8 mg) was added thereto at 60° C., followed by stirring at the same temperature for 2 hrs. The reaction mixture was cooled down to room temperature, and then a solution of morpholine-4-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl}amide (65.0 mg) in acetonitrile (3 ml) was added thereto, followed by stirring for 1 hr. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:4). Fractions containing the target compound were concentrated to give a residue, which was suspended in diethyl ether (3 ml)-hexane (3 ml). The solid was filtered off and dried under aeration to provide the titled compound (54.4 mg, 54.6%) as white powder.

reactant | 2-Phenylacetyl chloride | 0.064 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 94.8 mg | [S-]C#N.[K+]
reactant | morpholine-4-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl}amide | 65.0 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCOCC2)C=C1)F | C15H16FN5O3
reactant | hexane | 3 ml | CCCCCC | C6H14
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | Morpholine-4-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide | 54.4 mg, 54.6% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCOCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C24H23FN6O4S
